US07582638B2
Stir a slurry of 1-amino-4-nitroisoquinoline H2SO4 (120 g, 418 mmol) in aqueous HCl (6 N, 2 L) mechanically under nitrogen at 35° C. Add a solution of NaNO2 (72.1 g, 1044 mmol) in water (300 mL) over 1 hour while warming the slurry to 50° C. Heat the mixture an additional 30 minutes then allow to cool to room temperature and stir overnight. Heat the mixture to 50° C., then add a solution of NaNO2 (36 g in 150 mL of water) over 30 minutes. Stir the mixture for 2 hours then heat to 60° C., allow to cool slowly to room temperature over 3 hours. Filter the resulting slurry, and wash the cake with water (3×600 mL). Partially air-dry (180 g). Slurry the wet solid in i-PrOH (1 L) and EtOH (1 L) at reflux, add THF (350 mL) to effect complete dissolution. To the solution add water (400 mL), and cool to 10° C. over 3 hours. Filter and wash with EtOH (2×300 mL), then diethyl ether (3×150 mL). Air-dry overnight to afford 1-hydroxy-4-nitroisoquinoline (62.62 g, 79% yield) as a light brown solid. (ES+): m/z 191 (M++H).

reactant | 1-amino-4-nitroisoquinoline H2SO4 | 418 mmol, 120 g | NC1=NC=C(C2=CC=CC=C12)[N+](=O)[O-].OS(=O)(=O)O
reactant | NaNO2 | 1044 mmol, 72.1 g | N(=O)[O-].[Na+]
reactant | NaNO2 | 150 mL, 36 g | N(=O)[O-].[Na+]
solvent | HCl | 6 N, 2 L | Cl | ClH
solvent | water | 300 mL | O | H2O
product | 1-hydroxy-4-nitroisoquinoline | 62.62 g, 79% yield | OC1=NC=C(C2=CC=CC=C12)[N+](=O)[O-] | C9H6N2O3
